US04123538
In a similar operation, 5.0 grams (20 millimoles) of 4-benzhydrylpiperidine in 140 milliliters of dichloromethane was reacted with 2.3 grams (20 millimoles) of diglycolic anhydride in 200 milliliters of dichloromethan to obtain the desired [2-(4-benzhydrylpiperidino)-2-oxoethoxy]acetic acid product as a white solid which after purifying with ethyl acetate-hexane mixture had a m.p. of 139.5°-141° C.

reactant | 4-benzhydrylpiperidine | 20 millimoles, 5.0 grams | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCNCC1 | C18H21N
reactant | diglycolic anhydride | 20 millimoles, 2.3 grams | C1(COCC(=O)O1)=O | C4H4O4
solvent | dichloromethane | 140 milliliters | ClCCl | CH2Cl2
solvent | dichloromethan | 200 milliliters | ClCCl | CH2Cl2
product | [2-(4-benzhydrylpiperidino)-2-oxoethoxy]acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCN(CC1)C(COCC(=O)O)=O | C22H25NO4
